US04752646
To a solution of 9.6 g (39.6 mmol) of (4R,8R)-4,8,12-trimethyltridecanol in 30 mL of anhydrous N,N-dimethylformamide was added 10.7 g (40.84 mmol) of triphenylphosphine. The solution was stirred in an acetone-ice bath (-10° C.) while 2.1 mL (41 mmol) of bromine was added dropwise. The temperature rose to 5° C. The reaction mixture was stirred at room temperature for 1 hr then poured into 100 mL of water and 150 mL of hexane. After filtration, the layers were separated and the aqueous phase was extracted with 2×150 mL of hexane. The hexane layers were washed with saturated NaHCO3 solution, dried (MgSO4), filtered through a plug of silica gel, and concentrated in vacuo. Kugelrohr distillation (150°-160° C. bath temperature, 1 mm Hg) of the residue gave 2 fractions: 5.15 g of 95.8% GC purity and 3.55 g of 97.9% GC purity (72.2% yield). Redistillation of the larger fraction gave (4R,8R)-1-bromo-4,8,12-trimethyltridecane as a colorless liquid bp 120° C. (0.15 mm) having a GC purity of 97.9%; [a]25D-3.01° (c 2.09, hexane).

reactant | (4R,8R)-4,8,12-trimethyltridecanol | 39.6 mmol, 9.6 g | C[C@@H](CCCO)CCC[C@@H](CCCC(C)C)C | C16H34O
reactant | triphenylphosphine | 40.84 mmol, 10.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 41 mmol, 2.1 mL | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | hexane | 150 mL | CCCCCC | C6H14
product | (4R,8R)-1-bromo-4,8,12-trimethyltridecane | BrCCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C16H33Br
